US07157488B2
N-Methyl-2-(6-chloro-1H-indol-3-yl)ethylamine
Combine N-t-butoxycarbonyl-2-(6-chloro-1H-indol-3-yl)ethylamine (1.3 g, 4.41 mmol) and dry THF (20 ml) and add dropwise to an ice bath cooled suspension of LiAlH4 (1.0 g, 26.5 mmol) in dry THF (30 ml). Heat to reflux. After 2 hours, cool to ambient temperature and stir. After 15 hours, quench with saturated NaSO4 (100 ml/mol), stir for 1 hour at ambient temperature, then filter under vacuum. Wash precipitate with THF and evaporated filtrate and washes to residue. Chromatograph the residue on silica gel eluting with dichloromethane/2N NH3(methanol) (84/16) to give the title compound: MS (ACPI): m/e 209.0 (M+1).

reactant | N-t-butoxycarbonyl-2-(6-chloro-1H-indol-3-yl)ethylamine | 4.41 mmol, 1.3 g | C(C)(C)(C)OC(=O)NCCC1=CNC2=CC(=CC=C12)Cl | C15H19ClN2O2
reactant | LiAlH4 | 26.5 mmol, 1.0 g | [H-].[H-].[H-].[H-].[Li+].[Al+3]
solvent | THF | 30 ml | C1CCOC1 | C4H8O
solvent | THF | 20 ml | C1CCOC1 | C4H8O
product | N-Methyl-2-(6-chloro-1H-indol-3-yl)ethylamine | CNCCC1=CNC2=CC(=CC=C12)Cl | C11H13ClN2
